US04975249
PREPARATION OF CESIUM LEVULINATE
46.9 gr. of 99% pure levulinic acid is slurried in 100 cc. distilled water. 97.3 g. of a 4.22 molar, pure cesium hydroxide solution is added and the temperature is raised to 65° C. to obtain complete solution. The solution is filtered through No. 40 filter paper to remove dust, etc. The solution is then evaporated on a hot plate to 200 g., which gives a 2 molar concentration, and it is then bottled.

reactant | levulinic acid | C(CCC(=O)C)(=O)O | C5H8O3
reactant | cesium hydroxide | [OH-].[Cs+]
solvent | water | O | H2O
product | CESIUM LEVULINATE | C(CCC(=O)C)(=O)[O-].[Cs+] | InChI=1S/C5H8O3.Cs/c1-4(6)2-3-5(7)8;/h2-3H2,1H3,(H,7,8);/q;+1/p-1
